US07723333B2
2-tert-Butyl-5-phenyl-4-{[3-(pyridin-4-yloxy)propyl]amino}isothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared as described for Example 12 from 4-hydroxypyridine and 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate with a reaction time of 15 mins. EtOAc was added to the reaction mixture and the mixture was washed with water, brine and evaporated. The residue was purified twice by silica gel column chromatography (Horizons Biotage) using 50-80% EtOAc in hexane then 50% EtOAc in DCM as eluent to give the title compound (0.035 g, 35%). 1H NMR (500 MHz CDCl3): δ 8.44 (d, 2H), 7.54-7.48 (m, 2H), 7.48-7.41 (m, 3H), 6.75 (d, 2H), 5.64 (t, 1H), 3.91 (t, 2H), 3.114-3.08 (m, 2H), 1.90-1.82 (m, 2H), 1.74 (s, 9H); 13C NMR (125 MHz CDCl3): δ 164.5, 159.8, 151.4, 135.2, 131.8, 129.9, 128.9, 125.2, 110.3, 107.6, 65.7, 61.8, 41.9, 28.8, 27.9; Mass Spectrum: M+H+ 416.

reactant | 4-hydroxypyridine | OC1=CC=NC=C1 | C5H5NO
reactant | 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C23H28N2O6S2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-tert-Butyl-5-phenyl-4-{[3-(pyridin-4-yloxy)propyl]amino}isothiazol-3(2H)-one 1,1-dioxide | 0.035 g, 35% | C(C)(C)(C)N1S(C(=C(C1=O)NCCCOC1=CC=NC=C1)C1=CC=CC=C1)(=O)=O | C21H25N3O4S
